US08293747B2
3-Nitro-4-boc piperizinyl pyridine was dissolved in ethyl acetate and few drops of acetic acids was added. The resulting solution was subjected Pd/C(10%, 10 mol %) and was kept under hydrogen atmosphere at room temperature. Overnight stirring and monitored the reaction progress until the reaction is complete. The reaction solution was filtered through celite and concentrated to give the product, 4-(3-Amino-pyridin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester in good yield (80%)

reactant | 3-Nitro-4-boc piperizinyl pyridine | [N+](=O)([O-])C1CN(CCN1C(=O)OC(C)(C)C)C1=NC=CC=C1 | C14H20N4O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 4-(3-Amino-pyridin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=NC=C1)N | C14H22N4O2
